US03981932
To 115 g. of 1-(3-chloro-4-cyclohexylphenyl)-1,2-ethanediol in tetrahydrofuran (800 ml.) is added a solution of periodic acid (102 g.) in ether (750 ml.). The reaction mixture is stirred under nitrogen overnight. The reaction mixture is filtered and the filtrate is washed with water (3×200 ml) and placed over sodium sulfate. Removal of solvent gives a liquid residue which is then distilled to give 3-chloro-4-cyclohexylbenzaldehyde.

reactant | 1-(3-chloro-4-cyclohexylphenyl)-1,2-ethanediol | ClC=1C=C(C=CC1C1CCCCC1)C(CO)O | C14H19ClO2
reactant | periodic acid | 102 g | I(=O)(=O)(=O)O | HIO4
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | ether | 750 ml | CCOCC | C4H10O
product | 3-chloro-4-cyclohexylbenzaldehyde | ClC=1C=C(C=O)C=CC1C1CCCCC1 | C13H15ClO
